US05665748
A mixture of 5-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]cinnamylidene]-2,4-oxazolidinedione (0.29 g), palladium-carbon (10%, 0.1 g) and dioxane (50 ml) was subjected to catalytic hydrogenation at room temperature under atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography. From the fractions eluted with chloroform-methanol (100:3) was obtained 5-[3-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]phenyl]propyl]-2,4-oxazolidinedione (0.28 g, 96%). This product was recrystallized from dichloromethane-methanol to give colorless prisms, m.p.149°-150° C.

reactant | 5-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]cinnamylidene]-2,4-oxazolidinedione | 0.29 g | CC1=C(N=C(O1)C1=CC(=CC=C1)C)CCOC1=CC=C(C=CC=C2C(NC(O2)=O)=O)C=C1 | C25H22N2O5
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-[3-[4-[2-[5-methyl-2-(3-methylphenyl)-4-oxazolyl]ethoxy]phenyl]propyl]-2,4-oxazolidinedione | 0.28 g, 96% | CC1=C(N=C(O1)C1=CC(=CC=C1)C)CCOC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O5
